US07378417B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(morpholine-4-sulfonyl)-phenyl]-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 3-(morpholine-4-sulfonyl)-phenylamine [CAS 22184-97-0; commercially available] according to general procedure II as follows: to a stirred solution of a pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (1.0 mmol) in THF (4 ml) was added at room temperature DMF (2 drops), the solution was cooled to 0° C. and oxalylchloride (1.5 mmol) was added. The reaction mixture was stirred at room temperature for 3 h and evaporated to dryness. The precipitate was dissolved in pyridine (6 ml) and, while stirring at room temperature, 4-dimethylaminopyridine (1 mmol) and an aniline derivative (1 mmol) was added. The reaction mixture was allowed to stir at room temperature for 16 h, evaporated to dryness and the crude product purified by flash chromatography on silica gel (20 g, dichloromethane/methanol) to yield the product as a light yellow solid, which was further purified by crystallization from methanol/hexane. MS (ISP) 580.1 [(M−H)−]; mp 221° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 3-(morpholine-4-sulfonyl)-phenylamine | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)N | C10H14N2O3S
reactant | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 1.0 mmol | N1=CC(=C2N1C=CC=N2)C(=O)O | C7H5N3O2
reactant | oxalylchloride | 1.5 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 1 mmol | NC1=CC=CC=C1 | C6H7N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 1 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(morpholine-4-sulfonyl)-phenyl]-amide | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C25H20F5N5O4S
